US06359134B1
1-(6-Bromonaphthalene-2-sulfonyl)-4-(4-diisopropylaminomethylbenzoyl)piperazine
To a mixture of 1-(4-diisopropylaminomethylbenzoyl)piperazine (200 mg) in 10% sodium hydrogen carbonate solution (10 ml) and ethyl acetate (15 ml), was added 6-bromonaphthalene-2-sulfonylchloride (179 mg), and the solution was stirred at room temperature for 30 minutes. The organic layer was separated, washed with water and extracted with 1 N hydrochloric acid. The extract was made alkaline with sodium hydroxide solution and extracted with dichloromethane. The extract was dried and concentrated. The residue was crystallized with ether to give the title compound (201 mg), as colorless crystals.

reactant | 1-(4-diisopropylaminomethylbenzoyl)piperazine | 200 mg | C(C)(C)N(C(C)C)CC1=CC=C(C(=O)N2CCNCC2)C=C1 | C18H29N3O
reactant | 6-bromonaphthalene-2-sulfonylchloride | 179 mg | BrC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)Cl | C10H6BrClO2S
solvent | sodium hydrogen carbonate | 10 ml | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 1-(6-Bromonaphthalene-2-sulfonyl)-4-(4-diisopropylaminomethylbenzoyl)piperazine | 201 mg | BrC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)CN(C(C)C)C(C)C)=O | C28H34BrN3O3S
